US07361677B2
4-(3-Hydroxy-propylsulfanyl)-phenol (CAB02029)
4-Hydroxythiophenol (6.31 g, 50 mmol) was dissolved in ethanol (100 mL) and potassium tert.-butoxide (6.72 g, 60 mmol) was added. The mixture was stirred stirred until a clear, yellow solution was obtained. Then 3-chloro-1-propanol (4.20 mL, 50 mmol) was added with a syringe. The reaction mixture was stirred overnight at room temperature, the potassium chloride precipitate was filtered off and the filtrate was concentrated under reduced pressure. The residue was dissolved in ethyl acetate (150 mL) and the organic layer was extracted with water (2×100 mL) and brine (100 mL), dried over sodium sulphate and concentrated under reduced pressure. The resulting oil was dissolved in dichloromethane (50 mL) and hexane (100 mL) and left standing open overnight. The solid product was filtered off and dried under high vacuum. Yield: 5.34 g (58%) pale yellow solid.

reactant | 4-Hydroxythiophenol | 50 mmol, 6.31 g | OC1=CC=C(C=C1)S | C6H6OS
reactant | potassium tert.-butoxide | 60 mmol, 6.72 g | CC(C)([O-])C.[K+]
reactant | 3-chloro-1-propanol | 50 mmol, 4.20 mL | ClCCCO | C3H7ClO
solvent | ethanol | 100 mL | C(C)O | C2H6O
product | 4-(3-Hydroxy-propylsulfanyl)-phenol | OCCCSC1=CC=C(C=C1)O | C9H12O2S
